US07947706B2
77.6 mg of solid white 3-{4-[3-(4-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 4-trifluoromethylphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 4-trifluoromethylphenyl isocyanate | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | 3-{4-[3-(4-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | FC(C1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O)(F)F | C22H16F3N5O2
